US07842688B2
a) tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-{3-[1-(3-methoxypropyl)-1H-imidazol-2-yl]benzyloxy}piperidine-1-carboxylate
The mixture of 0.050 g of tetrakis(triphenylphosphine)palladium(0) in 1.0 ml of 1,2-dimethoxyethane is admixed with the solution of 0.319 g of tert-butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzyloxy]piperidine-1-carboxylate and 0.144 g of 2-bromo-1-(3-methoxypropyl)-1H-imidazole in 2.0 ml of 1,2-dimethoxyethane and 0.3 ml of ethanol. The reaction mixture is admixed with 0.9 ml of 2M sodium carbonate solution and stirred at reflux over 20 hours. The resulting reaction solution is concentrated by evaporation, admixed with 1:1 water/brine mixture (30 ml) and extracted with ethyl acetate (2×30 ml). The organic phases are washed with brine (30 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.15 (97:3 dichloromethane-methanol); Rt=5.23.

reactant | tert-butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzyloxy]piperidine-1-carboxylate | 0.319 g | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=CC(=CC=C2)B2OC(C(O2)(C)C)(C)C)C=CC=C1 | C40H54BNO8
reactant | 2-bromo-1-(3-methoxypropyl)-1H-imidazole | 0.144 g | BrC=1N(C=CN1)CCCOC | C7H11BrN2O
reactant | sodium carbonate | 2M, 0.9 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 1.0 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 2.0 ml | COCCOC | C4H10O2
solvent | ethanol | 0.3 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.050 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-{3-[1-(3-methoxypropyl)-1H-imidazol-2-yl]benzyloxy}piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=CC(=CC=C2)C=2N(C=CN2)CCCOC)C=CC=C1 | C41H53N3O7
